US06767919B2
1-(N-chloroethyl-N-methylaminoethoxy)-4-hydroxythioxanthone
A solution of 0.5 g of 1,4-dihydroxythioxanthone in 20 ml of dimethylformamide is stirred for 0.5 h at room temperature with 6 g of potassium carbonate under anhydrous conditions. Mechlorethamine hydrochloride (0.4 g) is then added and the heterogeneous mixture was stirred for 12 h at 50° C. Water is added and the mixture extracted with ethyl acetate. The ethyl acetate solution is washed with water, dried with sodium sulfate, passed through a plug of alumina and concentrated under vacuum to produce 0.4 g (55%).

reactant | 1,4-dihydroxythioxanthone | 0.5 g | OC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H8O3S
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Mechlorethamine hydrochloride | 0.4 g | CN(CCCl)CCCl.Cl
reactant | Water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(N-chloroethyl-N-methylaminoethoxy)-4-hydroxythioxanthone | ClCCN(C)CCOC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C18H18ClNO3S
